US07977477B2
A mixture of 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (70 mg, 0.23 mmol), morpholine-4-carbonyl chloride (80 μl, 0.7 mmol) and diisopropylethylamine (170 μl, 0.92 mmol) in THF (2 ml) was stirred at 0° C. and then allowed to warm to room temperature over 16 h. The reaction was quenched by the addition of conc. aq. NH3 and then concentrated in vacuo. The residue was purified through preparative LC/MS to give 4-morpholinyl-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1-H-pyrazol-4-yl]-urea as a white solid (35 mg). (LC/MS (basic method): Rt 2.28 min, [M−H+]− 415).

reactant | 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.23 mmol, 70 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
reactant | morpholine-4-carbonyl chloride | 0.7 mmol, 80 μl | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | diisopropylethylamine | 0.92 mmol, 170 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-morpholinyl-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1-H-pyrazol-4-yl]-urea | 35 mg | N1(CCOCC1)N(C(=O)N)C=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | C20H26N8O3
